* source AV
R_R12         N01817 N01769  40 TC=0,0 
R_R14         N01609 N01513  10 TC=0,0 
R_R11         N01609 N01817  30 TC=0,0 
R_R2         N01505 N01513  30 TC=0,0 
R_R1         N01585 N01505  10 TC=0,0 
R_R4         N01505 N01609  18 TC=0,0 
V_V1         N01585 0 DC 28.34  
R_R10         N01609 N01769  50 TC=0,0 
R_R3         N01505 N01609  9 TC=0,0 
R_R6         N01609 N01609  75 TC=0,0 
R_R9         N01513 0  5 TC=0,0 
R_R13         N01769 N01609  20 TC=0,0 
R_R5         N01609 N01513  60 TC=0,0 
