* source LAB2Q56
V_V1         N00210 N00203   
I_I1         N00210 N00218  AC 4 
R_R1         N00218 N00757  1 TC=0,0 
R_R2         0 N00203  2 TC=0,0 
R_R3         0 N01248  1 TC=0,0 
R_R4         0 N00218  2 TC=0,0 
X_H1    N01248 N00210 N00757 N00203 SCHEMATIC1_H1 
G_G1         N00757 0 N00218 N00757 1.5

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 4
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
